US04859683
To a solution of 5 g (14.6 mmol) of methyl 3-(4'-tosyloxybutyl)-4-acetylaminosalicylate in 50 ml of THF is added 0.64 g (16.1 mmol) of sodium hydride (60% dispersion in mineral oil) portionwise at room temperature. After addition is complete stirring is continued 24 hours at room temperature. Water is added dropwise to decompose excess NaH. The reaction mixture is diluted with ethyl acetate and washed with water. The organic layer is dried over MgSO4, filtered and concentrated. Flash chromatography (5% EtOAc/hexanes) provides methyl 6-acetylamino-2,3,4,5-tetrahydro-1-benzoxepin-9-carboxylate.

reactant | methyl 3-(4'-tosyloxybutyl)-4-acetylaminosalicylate | 14.6 mmol, 5 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCCCCC1=C(C(C(=O)OC)=CC=C1NC(C)=O)O | C21H25NO7S
reactant | sodium hydride | 16.1 mmol, 0.64 g | [H-].[Na+]
reactant | Water | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 6-acetylamino-2,3,4,5-tetrahydro-1-benzoxepin-9-carboxylate | C(C)(=O)NC1=CC=C(C2=C1CCCCO2)C(=O)OC | C14H17NO4
